US05604213
(b) 3-Acetoxy-17-(3-pyridyl)estra-1,3,5[10],16-tetraene
The method followed that described in Example 1(b), but using diethyl(3-pyridyl)borane (1.65 g, 11.2 mmol), 3-acetoxyestra-1,3,5[10],16-tetraen-17-yl trifluoromethanesulphonate (3.56 g, 8.0 mmol), THF (40 ml), bis(triphenylphosphine)palladium(II) chloride (56 mg, 0.08 mmol), and aqueous sodium carbonate (2M, 15 ml).

reactant | diethyl(3-pyridyl)borane | 11.2 mmol, 1.65 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | 3-acetoxyestra-1,3,5[10],16-tetraen-17-yl trifluoromethanesulphonate | 8.0 mmol, 3.56 g | FC(S(=O)(=O)OC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC(C)=O)(F)F | C21H23F3O5S
reactant | sodium carbonate | 2M, 15 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.08 mmol, 56 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-Acetoxy-17-(3-pyridyl)estra-1,3,5[10],16-tetraene | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C2C=C1)C=1C=NC=CC1 | C25H27NO2
